US08008491B2
4-(3-Formyl-1-phenyl-1H-indole-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (1.06 g, 2.53 mmol) and trifluoroacetic acid (10 mL) in dichloromethane (4 mL) is stirred overnight at room temperature. The solvent is evaporated off and the residue dissolved in dichloromethane (10 mL), washed with 5% aq sodium carbonate, with water, with brine, dried, filtered and concentrated. The residue is purified by chromatography eluting with dichloromethane-5 to 10% methanol. Product containing fraction are combined and concentrated to afford 2-[1,4]diazepan-1-yl-1-phenyl-1H-indole-3-carboxaldehyde (86% yield) as a white solid. LC/MS: MS 320 (M+H); 2.5 min; NMR (CDCl3) 10.30 (1H, s), 8.25 (1H, d), 7.03-7.70 (7H, m), 6.97 (1H, d), 3.20-3.46 (4H, m), 2.84 (4H, m) 1.62(2H, m).

reactant | 4-(3-Formyl-1-phenyl-1H-indole-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 2.53 mmol, 1.06 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C25H29N3O3
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-[1,4]diazepan-1-yl-1-phenyl-1H-indole-3-carboxaldehyde | 86% yield | N1(CCNCCC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C20H21N3O
